US09216999B2
4-(Hydroxymethyl)-N-methoxy-N-methylbenzamide
4-(Hydroxymethyl)benzoic acid (3.00 g, 19.7 mmol) and N,O-dimethylhydroxylamine hydrochloride (2.31 g, 23.7 mmol) in chloroform (30 mL) was stirred with 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (4.54 g, 23.7 mmol), 1-hydroxybenzotriazole (3.20 g, 23.7 mmol) and N,N-diisopropylethylamine (8.04 mL, 47.3 mmol) at room temperature for one day. After addition of water, the reaction mixture was extracted with ethyl acetate, and the organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give a mixture containing the title compound as a colorless oil (4.20 g). The resulting mixture was used for the next step.

reactant | 4-(Hydroxymethyl)benzoic acid | 19.7 mmol, 3.00 g | OCC1=CC=C(C(=O)O)C=C1 | C8H8O3
reactant | N,O-dimethylhydroxylamine hydrochloride | 23.7 mmol, 2.31 g | Cl.CNOC
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 23.7 mmol, 4.54 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 23.7 mmol, 3.20 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N-diisopropylethylamine | 47.3 mmol, 8.04 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 4-(Hydroxymethyl)-N-methoxy-N-methylbenzamide | 4.20 g | OCC1=CC=C(C(=O)N(C)OC)C=C1 | C10H13NO3
